US07384961B2
37.6 ml cyclohexanone, 5.75 g paraformaldehyde, 38 ml glacial acetic acid and 30.2 g benzylmethylamine hydrochloride were heated at 105° C. (bath temperature) for 25 minutes, while stirring, the mixture was concentrated in vacuo (10 mbar), the residue was taken up in 100 ml 2-butanone and the mixture was concentrated again in vacuo. The residue was heated under reflux with 150 ml 2-butanone. After cooling to room temperature, the mixture was filtered and the residue on the filter was dried in vacuo. 36 g 2-[(benzylmethylamino)methyl]cyclohexanone were obtained.

reactant | cyclohexanone | 37.6 ml | C1(CCCCC1)=O | C6H10O
reactant | paraformaldehyde | 5.75 g | C=O | CH2O
reactant | benzylmethylamine hydrochloride | 30.2 g | Cl.C(C1=CC=CC=C1)CN
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | 2-[(benzylmethylamino)methyl]cyclohexanone | 36 g | C(C1=CC=CC=C1)CNCC1C(CCCC1)=O | C15H21NO
